US07713994B2
(4Z)-6-(3-Furyl)-4-{[(3-hydroxy-4-propoxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione
(4Z)-6-Bromo-4-{[(3-hydroxy-4-propoxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione (110 mg, 0.255 mmol) is mixed with 3-furanboronic acid (58 mg, 0.51 mmol), Pd2(dba)3 (35 mg, 0.038 mmol), and cesium carbonate (166 mg, 0.51 mmol). After the solids were degassed, N,N-dimethylformamide (1.7 mL) and P(t-Bu)3 (15.5 mg, 0.077 mmol) were added. The mixture is heated at 100 C for 1 h, diluted with methylene chloride, and filtered. The filtrate is evaporated to dryness and purified by column chromatography to yield 8.5 mg (8%) of the title compound as a white solid. MS (ESI) m/z 417, 419 (M+H)+1

reactant | (4Z)-6-Bromo-4-{[(3-hydroxy-4-propoxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione | 0.255 mmol, 110 mg | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC1=CC(=C(C=C1)OCCC)O | C20H19BrN2O4
reactant | 3-furanboronic acid | 0.51 mmol, 58 mg | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | cesium carbonate | 0.51 mmol, 166 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | P(t-Bu)3 | 0.077 mmol, 15.5 mg | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 0.038 mmol, 35 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | N,N-dimethylformamide | 1.7 mL | CN(C=O)C | C3H7NO
product | (4Z)-6-(3-Furyl)-4-{[(3-hydroxy-4-propoxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione | 8.5 mg, 8% | O1C=C(C=C1)C=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC1=CC(=C(C=C1)OCCC)O | C24H22N2O5
